US08232278B2
Synthesis of 3-amino-6-(4-fluorophenyl)-pyridine-2-carboxylic acid amide
To a solution of 3-amino-6-chloropyridine-2-carboxylic acid amide (2.57 g, 15 mmol) in dioxane (200 ml) and water (50 ml) was added 4-fluorophenylboronic acid (2.1 g, 15 mmol), K2CO3 (6.2 g, 45 mmol), and tetrakis(triphenylphosphine) palladium(0) (860 mg, 0.75 mmol). The mixture was heated at reflux for 3 hours. After cooling to room temperature, the reaction mixture was concentrated to a small volume, filtrated and washed with water to yield a crude product. The residue was purified by silica gel flash chromatography, the mobile phase being a mixture of methanol and dichloromethane, in a volume ratio of 1:80, yielding the title compound (2.9 g, yield 85%) as a white solid. The mass spectrum characterising data was as follows: MS (m/z): 232 ([M+H]+, 100).

reactant | 3-amino-6-chloropyridine-2-carboxylic acid amide | 15 mmol, 2.57 g | NC=1C(=NC(=CC1)Cl)C(=O)N | C6H6ClN3O
reactant | 4-fluorophenylboronic acid | 15 mmol, 2.1 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | K2CO3 | 45 mmol, 6.2 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.75 mmol, 860 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-amino-6-(4-fluorophenyl)-pyridine-2-carboxylic acid amide | 2.9 g, yield 85% | NC=1C(=NC(=CC1)C1=CC=C(C=C1)F)C(=O)N | C12H10FN3O
